US20010053851A1
A solution of 3-cyclopentyl-2-[4-(1-hydroxy-cyclohexylethynyl)-phenyl]-propionic acid methyl ester (753 mg, 2.0 mmol) in methanol (10 mL) and water (10 mL) was treated with lithium hydroxide (1.02 g, 24.3 mmol). The reaction mixture was stirred at 25° C. for 18 h. At this time, the reaction was concentrated in vacuo. The residue was diluted with water (40 mL). This solution was acidified to pH=2 with concentrated hydrochloric acid and then extracted with ethyl acetate (2×40 mL). The combined organic extracts were then washed with a half-saturated sodium chloride solution (1×40 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-[4-(1-hydroxy-cyclohexylethynyl)-phenyl]-propionic acid (727 mg, quant.) as an amber foam: EI-HRMS m/e calcd for C22H28O 3 (M+) 340.2038, found 340.2037.

reactant | 3-cyclopentyl-2-[4-(1-hydroxy-cyclohexylethynyl)-phenyl]-propionic acid methyl ester | 2.0 mmol, 753 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)C#CC1(CCCCC1)O)=O | C23H30O3
reactant | lithium hydroxide | 24.3 mmol, 1.02 g | [OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 3-cyclopentyl-2-[4-(1-hydroxy-cyclohexylethynyl)-phenyl]-propionic acid | 727 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C#CC1(CCCCC1)O | C22H28O3
